US06765005B2
b) Tert-Butyl (R)-4-fluoro-3-[[[N-(benzyloxycarbonyl)serinyl]-benzylamino]methyl]benzoate
According to the procedure of Preparation 4 (c), except using tert-butyl 4-fluoro-3-(benzylaminomethyl)benzoate (4.80 g, 15.2 mmole), N-(benzyloxycarbonyl)-D-serine (3.83 g, 16 mmole), HOBt.H2O (2.16 g, 16 mmole), Et3N (2.24 mL, 16 mmole), EDC.HCl (3.07 g, 16 mmole), and 1:1 DMF/CH2Cl2 (75 mL), the title compound (1.58 g, 19%) was prepared as a thick oil following flash chromatography on silica gel (40% EtOAc/hexanes): 1H NMR (300 MHz, DMSO-d6) mixture of amide rotamers δ 7.39-8.18 (m, 2H), 7.18-7.37 (m, 11H), 4.25-5.11 (m, 7H), 3.33-4.04 (m, 2H), 1.53 (s, 9H).

reactant | tert-butyl 4-fluoro-3-(benzylaminomethyl)benzoate | 15.2 mmole, 4.80 g | FC1=C(C=C(C(=O)OC(C)(C)C)C=C1)CNCC1=CC=CC=C1 | C19H22FNO2
reactant | N-(benzyloxycarbonyl)-D-serine | 16 mmole, 3.83 g | C(C1=CC=CC=C1)OC(=O)N[C@H](CO)C(=O)O | C11H13NO5
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 16 mmole, 2.16 g | O | H2O
reactant | Et3N | 16 mmole, 2.24 mL | CCN(CC)CC | C6H15N
reactant | EDC.HCl | 16 mmole, 3.07 g | CCN=C=NCCCN(C)C.Cl
solvent | DMF CH2Cl2 | 75 mL | CN(C)C=O.C(Cl)Cl
product | Tert-Butyl (R)-4-fluoro-3-[[[N-(benzyloxycarbonyl)serinyl]-benzylamino]methyl]benzoate | 1.58 g, 19% | FC1=C(C=C(C(=O)OC(C)(C)C)C=C1)CN(CC1=CC=CC=C1)C([C@H](NC(=O)OCC1=CC=CC=C1)CO)=O | C30H33FN2O6
